US05747518
4) 3-amino-2-isopropenylthiophene hydrochloride
A solution containing 0.3 g of 3-(t-butoxycarbonylamino)-2-isopropenylthiophene in 7 ml of methylene chloride was cooled to 0° C., and 3 ml of a 4N-hydrogen chloride dioxane solution was added. The mixture obtained was used as intact for the next reaction.

reactant | 3-(t-butoxycarbonylamino)-2-isopropenylthiophene | 0.3 g | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=C)C | C12H17NO2S
reactant | hydrogen chloride dioxane | O1CCOCC1.Cl
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-2-isopropenylthiophene hydrochloride | Cl.NC1=C(SC=C1)C(=C)C | InChI=1S/C7H9NS.ClH/c1-5(2)7-6(8)3-4-9-7;/h3-4H,1,8H2,2H3;1H
